US08034814B2
2b) 1-(3-Bromo-4-ethyl-anilino)-4-[2-methoxy-(pyridin-4-yl)-methyl]-phthalazine
Under N2-atmosphere, 0.73 g (3.7 mMol) 3-bromo-4-ethyl-aniline and 0.82 ml 4 N HCl/dioxane are added to 1.00 g (3.5 mMol) 1-chloro-4-[2-methoxy-pyridin-4-yl)methyl]phthalazine in 12 ml methanol, and the mixture is stirred for 2 h at 70° C. After cooling, the resulting yellow solution is diluted with EtOAc and 2.5% NH3 solution, and the aqueous phase is removed and extracted twice with EtOAct. The organic phases are washed with water and brine, dried (Na2SO4) and evaporated with a RE. After addition of DIPE to the residue, the title compound crystallizes out: M.p. 133-135° C.; FAB-MS: (M+H)+=449/451; HPLC(Grad20-100) tRet=11.4.

reactant | 3-bromo-4-ethyl-aniline | 3.7 mMol, 0.73 g | BrC=1C=C(N)C=CC1CC | C8H10BrN
reactant | HCl dioxane | 4 N, 0.82 ml | Cl.O1CCOCC1
reactant | phthalazine | C1=NN=CC2=CC=CC=C12 | C8H6N2
solvent | methanol | 12 ml | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NH3 | N | H3N
product | 1-(3-Bromo-4-ethyl-anilino)-4-[2-methoxy-(pyridin-4-yl)-methyl]-phthalazine | BrC=1C=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC(=NC=C2)OC)C=CC1CC | C23H21BrN4O
